US05238837
A mixture of potassium phthalimide (5.59 g, 30.2 mmoles) and 200 ml of dried N,N-dimethylformamide was heated to 110° C. To this mixture was added dropwise methyl 20-tosyloxyeicosanoate (10.0 g, 20.1 mmoles) dissolved in 300 ml of N,N-dimethylformamide and the resulting mixture was heated at 110° C. with stirring for 2 hours. After the completion of the reaction, the reaction mixture was treated in the same manner as in Reference Example 2 to give methyl 20-phthalimidoeicosanoate (8.97 g, 95%) having the following properties.

reactant | potassium phthalimide | 30.2 mmoles, 5.59 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | methyl 20-tosyloxyeicosanoate | 20.1 mmoles, 10.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCCCCCCCCCCCC(=O)OC | C28H48O5S
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 20-phthalimidoeicosanoate | 8.97 g, 95% | C1(C=2C(C(N1CCCCCCCCCCCCCCCCCCCC(=O)OC)=O)=CC=CC2)=O | C29H45NO4
